### PR TITLE
Fact 20210609

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Lemmas about `fact` used to prove the convergence of the exponential series in MathComp-Analysis.
There is the `leq_fact` lemma in this PR and also the following `fact_split` lemma that I do not know
where to put. Any idea?

```
Local Open Scope nat_scope.

Lemma prod_rev n m :
  \prod_(0 <= k < n - m) (n - k) = \prod_(m.+1 <= k < n.+1) k.
Proof.
rewrite [in RHS]big_nat_rev /= -{1}(add0n m.+1) big_addn subSS.
by apply eq_bigr => i _; rewrite addnS subSS addnC subnDr.
Qed.

Lemma fact_split n m : m <= n -> n`! = \prod_(0 <= k < n - m) (n - k) * m`!.
Proof.
move=> ?; rewrite [in RHS]fact_prod mulnC prod_rev -big_cat [in RHS]/index_iota.
rewrite subn1 -iota_add subSS addnBCA // subnn addn0 [in LHS]fact_prod.
by rewrite [in RHS](_ : n = n.+1 - 1) // subn1.
Qed.

```

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Review by CohenCyril — CHANGES_REQUESTED** [review]
As for the other two, I would put: 
```coq
Lemma fact_split n m : m <= n -> n`! = m`! * \prod_(m.+1 <= k < n.+1) k.
Proof. by move=> leq_mn; rewrite !fact_prod -big_cat_nat. Qed.
```
next to `fact_prod`.

And your `prod_rev` is too specific, both in the quantifications and in the sides of the equations.
It should be a bigop lemma instead, e.g.:
```coq
Lemma big_rev_mkord m n F : \big[op/idx]_(m <= k < n | P k) F k = \big[op/idx]_(k < n - m | P (n - k.+1)) F (n - k.+1).
Proof.
rewrite big_nat_rev (big_addn 0)/= big_mkord.
by apply: eq_bigr => i; rewrite -addSn addnC subnDr.
Qed.
```
I'm not yet sure about the name though...

File: mathcomp/ssreflect/ssrnat.v [hunk 1]
```diff
@@ -1249,6 +1249,9 @@ Lemma factS n : (n.+1)`!  = n.+1 * n`!. Proof. by []. Qed.
 Lemma fact_gt0 n : n`! > 0.
 Proof. by elim: n => //= n IHn; rewrite muln_gt0. Qed.
 
+Lemma leq_fact n : n <= n`!.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply mathcomp/ssreflect/ssrnat.v]: Ok. I have added the `leq_fact` lemma (with `homo` instead of `mono`).

**Comment by affeldt-aist** [comment]
> ```coq
> Lemma big_rev_mkord m n P F :
>  \big[op/idx]_(m <= k < n | P k) F k = \big[op/idx]_(k < n - m | P (n - k.+1)) F (n - k.+1).
> Proof.
> rewrite big_nat_rev (big_addn 0)/= big_mkord.
> by apply: eq_bigr => i; rewrite -addSn addnC subnDr.
> Qed.
> ```
> 
> I'm not yet sure about the name though...

By the look at `big_geq_mkord`, this looks like a reasonable name to me.

File: mathcomp/ssreflect/ssrnat.v [hunk 2]
```diff
@@ -1252,12 +1252,13 @@ Proof. by elim: n => //= n IHn; rewrite muln_gt0. Qed.
 Lemma fact_geq n : n <= n`!.
 Proof. by case: n => // n; rewrite factS -(addn1 n) leq_pmulr ?fact_gt0. Qed.
 
-Lemma leq_fact : {homo factorial : x y / x <= y}.
+Lemma ltn_fact : {in [pred m | 0 < m], {homo factorial : m n / m < n}}.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/ssrnat.v:1255]: I think for this I prefer to keep the expanded form, which should be convertible...
```suggestion
Lemma ltn_fact m n : 0 < m -> m < n -> m`! < n`!.
```

File: CHANGELOG_UNRELEASED.md [hunk 3]
```diff
@@ -198,6 +198,9 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
 
 - in `finalg.v`, `finFieldType` now inherits from `countDecFieldType`.
 
+- `fact_smonotone` moved from `binomial.v` to `ssrnat.v`, renamed to `ltn_fact`,
+  and changed to use the `homo` notation
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:202]:
```suggestion
- `fact_smonotone` moved from `binomial.v` to `ssrnat.v` and renamed to `ltn_fact`.
```

**Comment by CohenCyril** [comment]
> By the look at `big_geq_mkord`, this looks like a reasonable name to me.

@chdoc I remember seeing a comment about the name not being so reasonable to you, but I cannot find it anymore, did I imagine it?

**Comment by chdoc** [comment]
I do not recall commenting on this name. :man_shrugging:

**Comment by CohenCyril** [comment]
> I do not recall commenting on this name.

Maybe it was in a dream...

**Comment by CohenCyril** [comment]
Ah I see, since I was not there, I imagined the worst:
https://github.com/math-comp/math-comp/wiki/Minutes-June-16-2021
> - PR 752:
>   - Cyril: to come back to it but this should be light
>   - Christian: questioning the naming of big_rev_mkord

Would you mind telling me your questioning and what answers you had?

**Comment by chdoc** [comment]
From what I remember, I had simply missed that the order is in fact reversed, because my expectation was to find a lemma where the range has been shifted down (so that it begins with 0) without reversing the bigop. :man_shrugging:

**Review by CohenCyril — APPROVED** [review]
LGTM
